US05039805
For the preparation of the starting material, MS: 367 (M-BOC+H), 6-(1-t-butoxyformamido)hexanoic acid and 3-amino-5-nitrobenzoic acid are reacted to give 3-[6-(1-t-butoxyformamido)hexanamido]-5-nitrobenzoic acid, MS: 396 (2, M+H), and the latter is reacted with β-alanine methyl ester to give N-[3-[6-(1-t-butoxyformamido)hexanamido]-5-nitrobenzoyl]-β-alanine methyl ester, MS: 381 (100, M-Boc+H). This is then saponified in methanolic sodium hydroxide solution.

reactant | 6-(1-t-butoxyformamido)hexanoic acid | C(C)(C)(C)OC(=O)NCCCCCC(=O)O | C11H21NO4
reactant | 3-amino-5-nitrobenzoic acid | NC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H6N2O4
product | 3-[6-(1-t-butoxyformamido)hexanamido]-5-nitrobenzoic acid | C(C)(C)(C)OC(=O)NCCCCCC(=O)NC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C18H25N3O7
